US08669266B2
(iv) 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-naphthalene-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester
To a solution of 630 mg of 4-Hydroxy-naphthalene-2-carboxylic acid and 1.1 g of 4-((S)-2-Amino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester in 3 ml of DMF, 512 mg of HOBT and 641 mg of EDC was added and the reaction mixture was stirred for 4 h at RT. Then, the reaction mixture was diluted with water and extracted with DCM. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with n-heptane/ethyl acetate (1/2). The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 246 mg.

reactant | 4-Hydroxy-naphthalene-2-carboxylic acid | 630 mg | OC1=CC(=CC2=CC=CC=C12)C(=O)O | C11H8O3
reactant | 4-((S)-2-Amino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | 1.1 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)N)=O | C16H29N3O5
reactant | HOBT | 512 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 641 mg
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-naphthalene-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=CC2=CC=CC=C2C(=C1)O)=O | C27H35N3O7
